* Simple memdiode circuit
Xdmm A 0 H AM_memdiode H0={H0} ri={ri} RPP={RPP} beta={beta} EI={EI} etas={etas} vs={vs} etar={etar} vr={vr} ion={ion} aon={aon} ron={ron} ioff={ioff} aoff={aoff} roff={roff} vt={vt} isb={isb} gam={gam}
R_h H 0 10Meg

Rcomp + A R=if(I(Rcomp)<{CC},1,V(+,A)/{CC})

* V1 + 0 SINE(0 3.7 1)
V1 + 0 PWL(0 0 0.25 1 0.75 -1 1 0)

.lib C:\Users\rafae\ltspice\DMM_SiOx.cir
.save v(+) v(dmm) Ix(dmm)
.backanno
.end
